US07141598B2
(iv) Production of 6-(7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide
Methylamine (2M in THF, 200 ml) was dissolved in dry THF (300 ml) and the mixture was cooled to −70° C. n-Butyl lithium (1.6 M; 250 ml) was added dropwise and the mixture was stirred at the same temperature for 20 min. The above-mentioned solution was added to a suspension (600 ml) of 6-(7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N,N-diisopropyl-2-naphthamide (37.7 g) in dry THF with a Teflon needle while stirring the mixture under ice-cooling, and the mixture was stirred at room temperature for 16 h. The saturated brine and water were added to the reaction mixture, and the mixture was diluted with ethyl acetate. The mixture was stirred for 10 min and the precipitated crystals were filtrated. The organic layer of the filtrate was separated and the aqueous layer was extracted with THF/ethyl acetate (1:1) mixture. The organic layers were combined and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in THF-ethyl acetate (1:1). The precipitated crystals were collected by filtration to give colorless powder crystals. The obtained crystals were combined and recrystallized from ethanol-ethyl acetate to give the title compound (22.1 g) as colorless powder crystals.

reactant | Methylamine | 2M, 200 ml | CN | CH5N
reactant | n-Butyl lithium | 1.6 M, 250 ml | C(CCC)[Li]
reactant | 6-(7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N,N-diisopropyl-2-naphthamide | 600 ml, 37.7 g | OC1(CCN2C=NC=C21)C=2C=C1C=CC(=CC1=CC2)C(=O)N(C(C)C)C(C)C | C23H27N3O2
reactant | water | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide | 22.1 g | OC1(CCN2C=NC=C21)C=2C=C1C=CC(=CC1=CC2)C(=O)NC | C18H17N3O2
